US08835393B2
(2S,2′S)-tert-butyl-2,2′-(biphenyl-2,2′-diylbis(azanediyl))bis(oxomethylene)dipyrrolidine-1-carboxylate d (0.140 g, 0.24 mmol) was suspended in a solution of 4M HCl/dioxane and stirred at room temperature for 4 h until LCMS indicated complete deprotection. The reaction mixture was concentrated to give (2S,2′S)—N,N′-(biphenyl-2,2′-diyl)dipyrrolidine-2-carboxamide e (0.09 g, 100%). LC/MS: mw 378.47; M+H+=379.2.

reactant | (2S,2′S)-tert-butyl-2,2′-(biphenyl-2,2′-diylbis(azanediyl))bis(oxomethylene)dipyrrolidine-1-carboxylate | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C(NC1=C(C=CC=C1)C1=C(C=CC=C1)NC(=O)[C@H]1N(CCC1)C(=O)[O-])=O
reactant | HCl dioxane | 4M | Cl.O1CCOCC1
product | (2S,2′S)—N,N′-(biphenyl-2,2′-diyl)dipyrrolidine-2-carboxamide | C1(=C(C=CC=C1)NC(=O)[C@H]1NCCC1)C1=C(C=CC=C1)NC(=O)[C@H]1NCCC1 | C22H26N4O2
